US04680402
[2-(4-ethyl-4-methyl-1-piperidinyl)-5-nitrophenyl]-(4-chlorophenyl)methanone
Proceeding as indicated in example 2 with 0.0734 mole (21.7 g) of 2,4'-dichloro-5-nitro-benzophenone, 0.11 mole (18 g) of 4-ethyl4-methylpiperidine and 0.22 mole (30.4 g) of calcium carbonate in 100 cm3 of N,N-dimethyl acetamide, 16.3 g (Yield: 57%) of the expected product are obtained after re-crystallization in isopropyl ether. M.P.: 105° C.

reactant | 2,4'-dichloro-5-nitro-benzophenone | 0.0734 mole, 21.7 g | ClC1=C(C(=O)C2=CC=C(C=C2)Cl)C=C(C=C1)[N+](=O)[O-] | C13H7Cl2NO3
reactant | 4-ethyl4-methylpiperidine | 0.11 mole, 18 g | C(C)C1(CCNCC1)C | C8H17N
reactant | calcium carbonate | 0.22 mole, 30.4 g | C([O-])([O-])=O.[Ca+2]
solvent | N,N-dimethyl acetamide | 100 cm3 | CN(C(C)=O)C | C4H9NO
product | [2-(4-ethyl-4-methyl-1-piperidinyl)-5-nitrophenyl]-(4-chlorophenyl)methanone | 16.3 g, Yield: 57% | C(C)C1(CCN(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])C(=O)C1=CC=C(C=C1)Cl)C | C21H23ClN2O3
